US06180635B2
N-{3-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)thio]propyl}acetamide
5-[(3-Aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (51 mg) and triethylamine (100 μl) were dissolved in dichloromethane (2 ml) and acetyl chloride (25 μl) was added. The reaction was stirred overnight, then water was added and the phases were separated. The aqueous phase was extracted with dichloromethane, then the organic phases were combined, dried, filtered and evaporated. Purification by HPLC (ethanol:dichloromethane 1-10: 99-90) gave the title compound (36 mg).

reactant | 5-[(3-Aminopropyl)thio]-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 51 mg | NCCCSC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC2=CC=CC1=CC=CC=C21 | C25H29N3O2S2
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 25 μl | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-{3-[(1,2,3,4-Tetrahydro-3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-2,4-dioxothieno[2,3-d]pyrimidin-5-yl)thio]propyl}acetamide | 36 mg | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)SCCCNC(C)=O)CC(C)C)=O | C27H31N3O3S2
